US09447091B2
c) N-(3-Nitro-5-pyrrol-1-yl-phenyl)-acetamide
Acetic anhydride (7.0 ml) was added to 3-nitro-5-pyrrol-1-yl-phenylamine (7.0 g, 34.48 mmol). The mixture was stirred for 30 min at RT and subsequently quenched by the addition of crushed ice. The precipitate formed was filtered and was washed with cold water to obtain off-white solid. The solid was dried under high vacuum to give the product in 89% yield (7.52 g). LC-MS (ESI): Calculated mass: 245.23; Observed mass: 244.1 [M−H]+ (rt: 0.24 min).

reactant | Acetic anhydride | 7.0 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | 3-nitro-5-pyrrol-1-yl-phenylamine | 34.48 mmol, 7.0 g | [N+](=O)([O-])C=1C=C(C=C(C1)N1C=CC=C1)N | C10H9N3O2
product | N-(3-Nitro-5-pyrrol-1-yl-phenyl)-acetamide | 89% yield | [N+](=O)([O-])C=1C=C(C=C(C1)N1C=CC=C1)NC(C)=O | C12H11N3O3
